US06008243
As described in Example 1(a) for the preparation of 3-biphenyl-4-yl-2,5-dimethoxytetrahydrofuran, 4'-(2,5-dimethoxy-2,5-dihydro-furan-3-yl)-biphenyl-4-carbonitrile (260 mg, 0.846 mmol) was reduced in 2 hours to give 260 mg (99%) of 4'-(2,5-dimethoxytetrahydrofuran-3-yl)-biphenyl-4-carbonitrile as a white solid, mp 149-50° C., which was used without further purification. 1H NMR (CDCl3): δ 7.78-7.26 (m, 8H), 5.30-5.00 (m, 2H), 3.52-3.22 (m, 6H), 2.78-2.00 (m, 3H). IR (KBr): 2910, 2220, 1606, 1498, 1448, 1380, 1224, 1190 cm-1. Anal. Calculated for C19H19NO3.0.3 H2O: C, 72.28; H, 6.28; N, 4.45. Found: C, 72.28; H, 6.19; N, 4.11.

reactant | 3-biphenyl-4-yl-2,5-dimethoxytetrahydrofuran | C1(=CC=C(C=C1)C1C(OC(C1)OC)OC)C1=CC=CC=C1 | C18H20O3
reactant | 4'-(2,5-dimethoxy-2,5-dihydro-furan-3-yl)-biphenyl-4-carbonitrile | 0.846 mmol, 260 mg | COC1OC(C=C1C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)OC | C19H17NO3
product | 4'-(2,5-dimethoxytetrahydrofuran-3-yl)-biphenyl-4-carbonitrile | 260 mg, 99% | COC1OC(CC1C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)OC | C19H19NO3
